US08877754B2
3-[4-(4-Ethoxy-phenylethynyl)-phenyl]-propionic acid ethyl ester
To 1.80 g (5.17 mmol) 1-ethoxy-4-((4-iodophenyl)ethynyl)benzene (XII.1) in 24 mL DMF are added 2.36 mL (15.5 mmol) 3,3-diethoxy-propene, 3.69 mL (15.5 mmol) tributylamine, 1.44 g (5.17 mmol) tetrabutylammoniumchloride and 0.04 g (0.16 mmol) palladium(II)acetate under argon. The mixture is stirred at 120° C. for 12 h. After that time, 1.18 mL (7.76 mmol) 3,3-diethoxy-propene are added and the mixture is stirred at 120° C. for 5 d. After cooling, EtOAc is added and the mixture is washed with 1N potassium hydrogensulfate solution and water. The organic layer is dried over sodium sulphate and the solvent is evaporated. The residue is purified by column chromatography (silica gel; PE:DCM 1:1) to yield the desired product.

reactant | 1-ethoxy-4-((4-iodophenyl)ethynyl)benzene | 5.17 mmol, 1.80 g | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)I | C16H13IO
reactant | 3,3-diethoxy-propene | 15.5 mmol, 2.36 mL | C(C)OC(C=C)OCC | C7H14O2
reactant | tributylamine | 15.5 mmol, 3.69 mL | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 3,3-diethoxy-propene | 7.76 mmol, 1.18 mL | C(C)OC(C=C)OCC | C7H14O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammoniumchloride | 5.17 mmol, 1.44 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium(II)acetate | 0.16 mmol, 0.04 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[4-(4-Ethoxy-phenylethynyl)-phenyl]-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)C#CC1=CC=C(C=C1)OCC)=O | C21H22O3
